US04929624
To a stirred mixture of 10.2 g (0.036 mole) of 1-(2-acetoxy-1-methylethyl)-1H-imidazo[4,5-c]quinolin-5-oxide (prepared according to the method of Example 8) in 100 ml of dichloromethane was added in portions, 4.2 ml, 6.9 g (0.45 mole) of phosphorus oxychloride. After 4 hours the mixture was evaporated in vacuo. The residue was added to a saturated sodium bicarbonate solution, and that solution was extracted with chloroform. The chloroform layer was washed with both saturated sodium bicarbonate solution and water, dried over magnesium sulfate and evaporated in vacuo to yield light brown solid 1-(2-acetoxy-1-methylethyl)-4-chloro-1H-imidazo[4,5-c]quinoline.

reactant | 1-(2-acetoxy-1-methylethyl)-1H-imidazo[4,5-c]quinolin-5-oxide | 0.036 mole, 10.2 g | C(C)(=O)OCC(C)N1C=NC=2C=[N+](C=3C=CC=CC3C21)[O-] | C15H15N3O3
reactant | phosphorus oxychloride | 0.45 mole, 4.2 ml, 6.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(2-acetoxy-1-methylethyl)-4-chloro-1H-imidazo[4,5-c]quinoline | C(C)(=O)OCC(C)N1C=NC=2C(=NC=3C=CC=CC3C21)Cl | C15H14ClN3O2
